US08629147B2
(S)-2-Amino-1-(3-chloro-phenyl)-ethanol
A mixture of (S)-2-Azido-1-(3-chlorophenyl)-ethanol (5.14 g, 0.026 mol), NaBH4 (1.97 g, 0.052 mol) and isopropanol (100 ml) was stirred at 80° C. for 24 h. The solvent was evaporated, the residue was separated on SiO2 (15 g) CHCl3-MeOH (0 to 30%). Colorless oil, 3.70 g (0.021 mol, 83%). The material was reacted with Boc2O in dichloromethane and NEt3 and analyzed by chiral SFC using a CHIRALPAK AD-H column, 30% MeOH and determined to be 91% ee. LCMS [M+H]+ 172.4. 1H NMR (300 MHz, DMSO) δ 7.24-7.39 (m, 4H), 4.46 (dd, J=4.3, 7.5 Hz, 1H), 2.68 (dd, J=4.3, 12.8 Hz, 1H), 2.57 (dd, J=7.5, 13.0 Hz, 1H).

reactant | (S)-2-Azido-1-(3-chlorophenyl)-ethanol | 0.026 mol, 5.14 g | N(=[N+]=[N-])C[C@@H](O)C1=CC(=CC=C1)Cl | C8H8ClN3O
reactant | NaBH4 | 0.052 mol, 1.97 g | [BH4-].[Na+]
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | MeOH | CO | CH4O
product | (S)-2-Amino-1-(3-chloro-phenyl)-ethanol | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
